US05366987
(b) 3-Dodecyl-5-isoxazole carboxylic acid
To a stirred, warm (55° C.) solution of hexadecanoic acid, 2,4-dioxo, ethyl ester, monosodium salt (15.50 g, 0.046 mol) in glacial acetic acid (125 mL) was added dropwise a solution of hydroxylamine hydrochloride (6.45 g, 0.093 mol) in water (32 mL) over 10 minutes, and the mixture was stirred at 60° C. for 25 hours. The mixture was allowed to cool and partitioned between H2O (250 mL) and chloroform (400 mL). The organic layer was washed (saturated NaCl), dried (MgSO4), and rotoevaporated. The residue was dissolved (toluene), rotoevaporated, and the solid recrystallized from toluene to give a white solid, yield 5.62 g (43%), mp 119°-122° C.

reactant | hexadecanoic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | monosodium | 0.046 mol, 15.50 g | [Na] | Na
reactant | hydroxylamine hydrochloride | 0.093 mol, 6.45 g | Cl.NO
solvent | acetic acid | 125 mL | C(C)(=O)O | C2H4O2
solvent | water | 32 mL | O | H2O
product | 3-Dodecyl-5-isoxazole carboxylic acid | C(CCCCCCCCCCC)C1=NOC(=C1)C(=O)O | C16H27NO3
